US06518260B1
2.1. Phenylmethyl N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-alaninate
The process is performed according to the operating conditions described in 1.8, starting with 300 mg (0.62 mmol) of 3-[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoic acid synthesized in 1.7., and 219 mg (0.62 mmol) of phenylmethyl alaninate in the form of the p-toluenesulphonic acid salt. 288 mg of product are recovered (yield=71.9%).

reactant | 3-[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoic acid | 0.62 mmol, 300 mg | OP(=O)(CC(C(=O)O)CC1=CC=CC=C1)C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C26H28NO6P
reactant | phenylmethyl alaninate | 0.62 mmol, 219 mg | N[C@@H](C)C(=O)OCC1=CC=CC=C1 | C10H13NO2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Phenylmethyl N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-alaninate | yield=71.9% | OP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)CC(C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C36H39N2O7P
